US04232163
Preparation of N-isopropyl-4'-chloroacetoacetanilide
A 500 ml reaction flask fitted with a condenser, drying tube, magnetic stirrer and therometer was charged with 89.5 g (0.528 mole) of 4-chloro-N-isopropylaniline, 200 ml of glacial acetic acid and 18.5 g (0.58 mole) of mercuric acetate. To the stirred solution there was added dropwise 48.8 g (0.58 mole) of diketene while the reaction temperature was maintained at 30°-5°. The reaction solution was allowed to stir overnight at ambient temperature. The solution was mixed with two liters of water and twice extracted with ether. The organic phase was washed with water and dried over sodium sulfate. After removing the solvent, the liquid residue weighed 134 g (100%). N.M.R. (CDCl3) ∂1.0 and 1.2 (isopropyl, doublet), 1.8 (CH3, enol), 2.1 (CH3, keto), 3.2 (CH2), 4.7-5.2 (CH, isopropyl), 7.1-7.5 (aromatic).

reactant | 4-chloro-N-isopropylaniline | 0.528 mole, 89.5 g | ClC1=CC=C(NC(C)C)C=C1 | C9H12ClN
reactant | acetic acid | 200 ml | C(C)(=O)O | C2H4O2
reactant | diketene | 0.58 mole, 48.8 g | C=C1CC(=O)O1 | C4H4O2
solvent | water | two liters | O | H2O
product | N-isopropyl-4'-chloroacetoacetanilide | C(C)(C)N(C1=CC=C(C=C1)Cl)C(CC(=O)C)=O | C13H16ClNO2
